US04420486
10.9 g of o-aminophenol and 100 ml of acetic acid were placed in a 300 ml round-bottom flask, followed by addition of 10.2 g acetic anhydride under ice-water cooling. The mixture was heated at 60° C. for one hour to complete the reaction, resulting in formation of 2-acetaminophenol. 23.4 g gaseous chlorine was then passed into the reaction mixture at a temperature of 80°-90° C. and the resulting reaction solution was cooled and evaporated under reduced pressure to leave 24.9 g of yellow crystals of 2-acetamino-4,5,6-trichlorophenol which melted with decomposition at 200° C.

reactant | o-aminophenol | 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | acetic anhydride | 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-acetaminophenol | N(C(=O)C)C1=C(C=CC=C1)O | C8H9NO2
